US05332757
Using an analogous procedure to that described in Example 68, 5-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]indan-1-one was reacted with hydroxylamine hydrochloride to give (E)-5-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]indan-1-one oxime in 60% yield as a foam.

reactant | 5-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]indan-1-one | CC1(OCC(O1)(C)C=1C=C(SC1)SC=1C=C2CCC(C2=CC1)=O)C | C19H20O3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-5-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]indan-1-one oxime | 60% yield | CC1(OCC(O1)(C)C=1C=C(SC1)SC=1C=C2CC\C(\C2=CC1)=N/O)C | C19H21NO3S2
